US07423159B2
To a mixture of 2-(4-nitrophenoxy)acetohydrazide (1.57 g) and N,N-dimethylacetamide (50 mL) was added dropwise acetyl chloride (0.70 g) at room temperature. The reaction mixture was stirred for 2 hrs. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated. A mixture of the obtained residue, diphosphorus pentaoxide (1.76 g), hexamethyldisiloxane (4.03 g) and 1,2-dichlorobenzene (10 mL) was stirred at 140° C. for 3 hrs. Saturated aqueous sodium hydrogen carbonate was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated. The residue was subjected to silica gel column chromatography to give 2-methyl-5-[(4-nitrophenoxy)methyl]-1,3,4-oxadiazole as colorless crystals (0.41 g, yield 56%) from a fraction eluted with hexane-ethyl acetate (3:2-1:1, v/v). Recrystallization thereof from ethyl acetate-hexane gave colorless prism crystals. melting point: 105-106° C.

reactant | 2-(4-nitrophenoxy)acetohydrazide | 1.57 g | [N+](=O)([O-])C1=CC=C(OCC(=O)NN)C=C1 | C8H9N3O4
reactant | N,N-dimethylacetamide | 50 mL | CN(C(C)=O)C | C4H9NO
reactant | acetyl chloride | 0.70 g | C(C)(=O)Cl | C2H3ClO
solvent | Water | O | H2O
product | 2-methyl-5-[(4-nitrophenoxy)methyl]-1,3,4-oxadiazole | 0.41 g, yield 56% | CC=1OC(=NN1)COC1=CC=C(C=C1)[N+](=O)[O-] | C10H9N3O4
